US09145418B2
Ethyl {7-[(2E)-3-(dimethylamino)prop-2-enoyl]-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-4-yl}acetate [(XII)]
The intermediate ethyl (7-acetyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-4-yl)acetate 1 g (3.78 mmol) was dissolved in 5 ml of N,N-dimethylformamide ditert butyl acetal and stirred at 110° C. for 6 hours. The reaction mixture was concentrated and then partitioned between H2O and DCM. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford the title compound in quantitative yield.

reactant | ethyl (7-acetyl-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-4-yl)acetate | 3.78 mmol, 1 g | C(C)(=O)C=1C=C2N(C(CNC2=O)CC(=O)OCC)C1 | C13H16N2O4
solvent | N,N-dimethylformamide ditert butyl acetal | 5 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
product | Ethyl {7-[(2E)-3-(dimethylamino)prop-2-enoyl]-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-4-yl}acetate | quantitative yield | CN(/C=C/C(=O)C=1C=C2N(C(CNC2=O)CC(=O)OCC)C1)C | C16H21N3O4
